US07514419B2
To a solution of methyl 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzoate (8.53 g, 16.7 mmol, intermediate for the synthesis of Example 19-3) in methanol (60.0 mL) at 0° C. was added a solution of 1 N NaOH (28.15 mL, 28.15 mmol). The reaction mixture was stirred at room temperature for 16 h and acidified with cold concentrated HCl. The reaction mixture was extracted with ethyl acetate (10.0 mL) and the organic layer was dried over MgSO4. The solvent was removed under reduced pressure to afford 4-(3′-iso-propyl-4′-methoxyphenoxy)-3,5-dimethylbenzoic acid as a pink solid (1.38 g, 78%): 1H NMR (300 MHz, DMSO-d6): δ 12.88 (s, 1H), 7.76 (s, 2H), 6.85 (m, 1H), 6.75 (m, 1H), 6.34 (m, 1H), 3.73 (s, 3H), 3.20 (m, 1H), 2.11 (s, 6H), 1.12 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-acetone (17:3); Rf=0.00.

reactant | methyl 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzoate | CC=1C=C(C(=O)OC)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C20H24O4
reactant | NaOH | 28.15 mmol, 1 N, 28.15 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 60.0 mL | CO | CH4O
product | 4-(3′-iso-propyl-4′-methoxyphenoxy)-3,5-dimethylbenzoic acid | 1.38 g, 78% | C(C)(C)C=1C=C(OC2=C(C=C(C(=O)O)C=C2C)C)C=CC1OC | C19H22O4
